US07214686B2
2-(3-Pyridyl)-1-azabicyclo[3.2.2]nonane dihydrochloride
A solution of 1-(3-pyridyl)-3-(4-oxanyl)propylamine (1.00 g, 4.54 mmol) in 48% aqueous HBr (15 mL) was saturated with HBr gas. The mixture was heated in a pressure tube at 100°–120° C. for 12 h. The tube was cooled in ice water and the contents transferred to a 250 mL round bottom flask. Removal of the volatiles by rotary evaporation afforded a light yellow solid. Absolute ethanol (200 mL) and solid K2CO3 (10 g) were added and the mixture was heated at reflux for 8 h. The mixture was filtered through a Celite plug, which was then washed with ethanol (25 mL). The combined filtrates were concentrated by rotary evaporation; the solid obtained was suspended in saturated aqueous NaCl (10 mL) and extracted with chloroform (4×30 mL). The combined organic extracts were dried (K2CO3), filtered and concentrated by rotary evaporation to give a dark brown oil. Short path distillation (120°–122° C., 2 mm) provided 0.750 g of the desired free base as a colorless oil (81.7% yield).

reactant | 1-(3-pyridyl)-3-(4-oxanyl)propylamine | 4.54 mmol, 1.00 g | N1=CC(=CC=C1)C(CCC1CCOCC1)N | C13H20N2O
reactant | ethanol | 200 mL | C(C)O | C2H6O
reactant | K2CO3 | 10 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NaCl | 10 mL | [Na+].[Cl-]
solvent | HBr | 15 mL | Br | BrH
product | 2-(3-Pyridyl)-1-azabicyclo[3.2.2]nonane dihydrochloride | 81.7% yield | Cl.Cl.N1=CC(=CC=C1)C1N2CCC(CC1)CC2 | InChI=1S/C13H18N2.2ClH/c1-2-12(10-14-7-1)13-4-3-11-5-8-15(13)9-6-11;;/h1-2,7,10-11,13H,3-6,8-9H2;2*1H
